US07842694B2
3-{[2-Fluoro-1-(fluoromethyl)ethyl]oxy}-5-[(phenylmethyl)oxy]benzoic acid
A solution of lithium hydroxide monohydrate (2.32 g, 55.1 mmol) in water (100 mL) was added to a solution of methyl 3-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-5-[(phenylmethyl)oxy]benzoate (7.41 g, 22.0 mmol) in THF (200 mL) and the mixture allowed to stir at RT overnight. The THF was removed in vacuo and the resulting solution partitioned between water (100 mL) and ethyl acetate (250 mL). The ethyl acetate layer was separated, washed with brine and dried (MgSO4). The aqueous layer was then adjusted to pH 7 by addition of 1M hydrochloric acid and extracted with ethyl acetate (75 mL). The ethyl acetate layer was separated, washed with brine and dried (MgSO4). The ethyl acetate layers were combined and evaporated to give the required product (6.404 g).

reactant | lithium hydroxide monohydrate | 55.1 mmol, 2.32 g | O.[OH-].[Li+]
reactant | methyl 3-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-5-[(phenylmethyl)oxy]benzoate | 22.0 mmol, 7.41 g | FCC(CF)OC=1C=C(C(=O)OC)C=C(C1)OCC1=CC=CC=C1 | C18H18F2O4
solvent | water | 100 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-{[2-Fluoro-1-(fluoromethyl)ethyl]oxy}-5-[(phenylmethyl)oxy]benzoic acid | 6.404 g | FCC(CF)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C17H16F2O4
